US09212348B2
Synthesis of 2-methyl-1-p-tolylpropan-2-amine
6.24 g (26.0 mmol) of 2-chloro-N-(2-methyl-1-p-tolylpropan-2-yl)acetamide and 1.98 g (26.0 mmol) of thiourea were dissolved in 50 mL of ethanol, and 10.2 mL of acetic acid was added dropwise at room temperature. After 3 hours of stirring at 85° C., the resulting white suspension was allowed to cool and diluted with 300 mL of water. The reaction solution was basified with 20 wt % aqueous sodium hydroxide and extracted with hexane, and the extract was washed with saturated aqueous sodium chloride. The organic layer was concentrated under reduced pressure to give 4.04 g of the desired product as a yellow green liquid.

reactant | 2-chloro-N-(2-methyl-1-p-tolylpropan-2-yl)acetamide | 26.0 mmol, 6.24 g | ClCC(=O)NC(CC1=CC=C(C=C1)C)(C)C | C13H18ClNO
reactant | thiourea | 26.0 mmol, 1.98 g | NC(=S)N | CH4N2S
reactant | acetic acid | 10.2 mL | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 300 mL | O | H2O
product | 2-methyl-1-p-tolylpropan-2-amine | 4.04 g | CC(CC1=CC=C(C=C1)C)(C)N | C11H17N
